US06759554B2
2-(4-Aminophenyl)-N-(3,5-dimethylphenyl)ethylamine (FIG. 3, Entry 4)
An oven-dried resealable 15 mL Schlenk tube was charged with CuI (9.6 mg, 0.0504 mmol, 5.0 mol %), K3PO4 (440 mg, 2.07 mmol), evacuated and backfilled with argon. 5-Iodo-m-xylene (145 μL, 1.00 mmol), 2-(4-aminophenyl)ethylamine (160 μL, 1.21 mmol), ethylene glycol (115 μL, 2.06 mmol), and isopropyl alcohol (1.0 mL) were added under argon. The Schlenk tube was sealed with a Teflon valve and the reaction mixture was stirred magnetically at 80° C. for 22 h. The resulting thick, gray-brown suspension was allowed to reach room temperature, poured into a solution of 30% aq ammonia (1 mL) in water (20 mL), and extracted with 3×15 mL of CH2Cl2. The yellow-brown organic phase was dried (Na2SO4), concentrated, and the residue was purified by flash chromatography on silica gel (2×20 cm; hexane-ethyl acetate 3:2; 15 mL fractions). Fractions 9-18 were concentrated and the residue was recrystallized from hexanes (5 mL) to give 167 mg (69% yield) of the desired product as large white needles. 1H NMR (400 MHz, CDCl3): δ 7.04−6.97 (m, 2H), 6.67−6.61 (m, 2H), 6.36 (s, 1H), 6.24 (s, 2H), 3.65−3.50 (br m, 3H), 3.30 (t, J=6.8 Hz, 2H), 2.79 (t, J=7.0 Hz, 2H), 2.23 (s, 6H). 13C NMR (100 MHz, CDCl3): δ 148.2, 144.7, 138.8, 129.5, 129.2, 119.3, 115.3, 110.9, 45.3, 34.6, 21.5. IR (neat, cm−1): 3361, 3215, 1600, 1515, 1472, 1337, 1273, 1181, 820.

reactant | K3PO4 | 2.07 mmol, 440 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5-Iodo-m-xylene | 1.00 mmol, 145 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | 2-(4-aminophenyl)ethylamine | 1.21 mmol, 160 μL | NC1=CC=C(C=C1)CCN | C8H12N2
reactant | ethylene glycol | 2.06 mmol, 115 μL | C(CO)O | C2H6O2
reactant | ammonia | 1 mL | N | H3N
solvent | water | 20 mL | O | H2O
catalyst | CuI | 0.0504 mmol, 9.6 mg | [Cu]I
solvent | isopropyl alcohol | 1.0 mL | C(C)(C)O | C3H8O
product | 2-(4-Aminophenyl)-N-(3,5-dimethylphenyl)ethylamine | 167 mg, 69% yield | NC1=CC=C(C=C1)C(CN)C1=CC(=CC(=C1)C)C | C16H20N2
